US04731367
7.5 ml of a Raney nickel suspension is washed four times with respectively 30 ml of methanol. Then 15 ml of methanol and thereafter a solution of 670 mg (1.5 mmol) of 1,1-diethyl-3-[2-(1,3-dithiolan-2-yl)-6-methyl-8α-ergolinyl]urea in 15 ml of methanol are added thereto. The mixture is agitated for 3 hours at room temperature and once again 7.5 ml of a Raney nickel suspension is added which has been washed, as above, previously four times with respectively 30 ml of methanol. After another 2 hours of agitation at room temperature, the catalyst is filtered off over a silica gel column and thoroughly washed with methanol. The filtrate is evaporated and the residue is crystallized from methanol/ethyl acetate, thus obtaining 170 mg of 1,1-diethyl-3-(2,6-dimethyl-8α-ergolinyl)urea (32% yield).

reactant | 1,1-diethyl-3-[2-(1,3-dithiolan-2-yl)-6-methyl-8α-ergolinyl]urea | 1.5 mmol, 670 mg | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=C(NC4=CC=CC([C@H]2C1)=C34)C3SCCS3)C)CC | C23H32N4OS2
solvent | methanol | 15 ml | CO | CH4O
catalyst | Raney nickel | 7.5 ml | [Ni] | Ni
solvent | methanol | 15 ml | CO | CH4O
product | 1,1-diethyl-3-(2,6-dimethyl-8α-ergolinyl)urea | 170 mg, 32% yield | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=C(NC4=CC=CC([C@H]2C1)=C34)C)C)CC | C21H30N4O
